US06930131B2
Preparation of N-(3-{2-[Bis-(4-fluoro-phenyl)-methoxy]-ethyl}-phenyl)-C,C,C-trifluoro-methanesulfonamide
To a solution of 1 mmol of 4,4′-Difluoro-benzhydrol in 5-10 ml of dichloromethane (flame-dried RBF, nitrogen, stirring) is added 1.5-3 mmol of 2,6-Di-tert-butyl-4-methyl-pyridine. The solution is cooled down to −30° C. and 1-1.2 mmol of neat triflic anhydride added to the reaction mixture. After complete disappearance of starting material (may require additional 0.1-0.03 eq. of triflic anhydride) 1 mmol of 3-Nitro-phenethol added. The intermediate triflate disappeared in 4-6 hours. Standard acidic work-up followed by flash chromatography afforded the ether (˜75%), that was reduced into corresponding amine using sodium dithionite. The title compound was prepared using general procedure of triflation (Example 1, step 2) and isolated as an oil. NMR: DMSO: δ 11.8 (s, 1H), 7.0-7.4 (m, 12H, arom), 5.46 (s, 1H), 3.54 (t, 2H), 2.88 (t, 2H) CHN: 55.00, 3.99, 2.92 (0.5 MH2O) Found 54.95, 4.08, 2.88 El:471[M]+.

reactant | 4,4′-Difluoro-benzhydrol | 1 mmol | FC1=CC=C(C(C2=CC=C(C=C2)F)O)C=C1 | C13H10F2O
reactant | 2,6-Di-tert-butyl-4-methyl-pyridine | 1.5-3 mmol | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | triflic anhydride | 1-1.2 mmol | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | triflate | [O-]S(=O)(=O)C(F)(F)F
reactant | sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | dichloromethane | 5-10 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | N-(3-{2-[Bis-(4-fluoro-phenyl)-methoxy]-ethyl}-phenyl)-C,C,C-trifluoro-methanesulfonamide | FC1=CC=C(C=C1)C(OCCC=1C=C(C=CC1)NS(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)F | C22H18F5NO3S
